US07829707B2
(b) 3-(2-Ethoxyethoxy)pyridine-2-carbaldehyde
A mixture of 3-(2-ethoxyethoxy)-2-methylpyridine (0.506 g, 2.79 mmol) and selenium dioxide (0.31 g, 2.79 mmol) in 1,4-dioxane (10 mL) was heated at 75° C. overnight. After cooling to r.t., the mixture was filtered and the solids were washed with ethyl acetate. The solvent was removed in vacuo. The reaction was not complete and the solid was dissolved in 1,4 dioxane (15 mL) and selenium dioxide (0.31 g, 2.79 mmol) was added. The mixture was heated at 110° C. overnight. Ethyl acetate (10 mL) was added and the mixture was filtered. The black solid was washed with ethyl acetate and the filtrate was evaporated in vacuo. The crude product was purified by flash column chromatography (heptane/ethyl acetate gradient; 0 to 100% ethyl acetate), obtaining 0.21 g (39%) of the title compound.

reactant | 3-(2-ethoxyethoxy)-2-methylpyridine | 2.79 mmol, 0.506 g | C(C)OCCOC=1C(=NC=CC1)C | C10H15NO2
reactant | selenium dioxide | 2.79 mmol, 0.31 g | [Se](=O)=O | O2Se
reactant | selenium dioxide | 2.79 mmol, 0.31 g | [Se](=O)=O | O2Se
reactant | Ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-(2-Ethoxyethoxy)pyridine-2-carbaldehyde | 0.21 g, 39% | C(C)OCCOC=1C(=NC=CC1)C=O | C10H13NO3
